US05260197
To 2.5 ml of Tris-imidazole-sodium acetate buffer solution (solution containing 0.12 M each is adjusted to pH of 9.5 with 4 N NaOH) is added 0.2 ml of 15 mM NADP+ solution After keeping at 37° C. for 5 minutes, 0.1 ml of an enzyme solution is added and 0.2 ml of 150 mM L-fucose solution is further added to the system to initiate the reaction. Immediately thereafter, the reaction mixture is transferred to a cell for measurement of absorbance (1 cm light path) kept at 37° C. and absorbance is measured at the wavelength of 340 nm for 2 minutes or, if necessary, over a longer time period. One unit is an amount of enzyme that produces 1 μmole of NADPH for one minute.

reactant | NADP+ | 15 mM, 0.2 ml | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)OP(=O)(O)O)O)O)O)C(=O)N
reactant | L-fucose | 150 mM, 0.2 ml | O=C[C@@H](O)[C@H](O)[C@H](O)[C@@H](O)C | C6H12O5
product | NADPH | 1 μmole | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)OP(=O)(O)O)N | C21H30N7O17P3
